US09079853B2
3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-5-methyl-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-methyl-1-propylindoline-2,3-dione and commercially available 1-(1H-indol-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 9.02 (bs, 1H), 8.36 (d, 1H), 7.71 (m, 1H), 7.40 (m, 1H), 7.30-7.26 (m, 3H), 7.09 (d, 1H), 6.73 (d, 1H), 5.66 (s, 1H), 3.64 (m, 2H), 3.50 (d, 1H), 3.24 (d, 1H), 2.26 (s, 3H) 1.72 (m, 2H), 0.96 (t, 3H). Calculated mass for C22H22N2O3, 362.16. Observed 385.1 (M+Na).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-methyl-1-propylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C12H13NO2
reactant | 1-(1H-indol-3-yl)ethanone | N1C=C(C2=CC=CC=C12)C(C)=O | C10H9NO
product | 3-(2-(1H-indol-3-yl)-2-oxoethyl)-3-hydroxy-5-methyl-1-propylindolin-2-one | N1C=C(C2=CC=CC=C12)C(CC1(C(N(C2=CC=C(C=C12)C)CCC)=O)O)=O | C22H22N2O3
